US07247626B2
N-Cyclopentyl-8-(2-fluoro-4-pyridiny)-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin -4amine 60 mg, 0.14 mmol) was dissolved in cyclopentylamine and heated at 160° C. in a glass pressure vessel for 24 hours. The resulting solution was concentrated in vacuo to give a residue that was purified by silica gel chromatography (ethyl acetate:hexane 1:1 to ethyl acetate) to yield 25 mg (34%) of N2,N4-dicyclopentyl-8-[2-(cyclopentylamino)-4-pyridinyl]-7-phenylpyrazolo[1,5-a][1,3,5]triazine-2,4-diamine as a foam. 1H-NMR (CDCl3): δ 7.94 (d, 1H), 7.60 (m, 2H), 7.45 (m, 3H), 6.81 (d, 1H), 6.36 (m, 1H), 5.13 (d, 1H), 4.60 (m, 1H), 4.44 (m, 2H), 3.74 (m, 1H), 2.1–1.4 (m, 24H); MS m/z 523 (M+1).

reactant | N-Cyclopentyl-8-(2-fluoro-4-pyridiny)-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin -4amine | 0.14 mmol, 60 mg | C1(CCCC1)NC1=NC(=NC=2N1N=C(C2C2=CC(=NC=C2)F)C2=CC=CC=C2)SC | C22H21FN6S
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | N2,N4-dicyclopentyl-8-[2-(cyclopentylamino)-4-pyridinyl]-7-phenylpyrazolo[1,5-a][1,3,5]triazine-2,4-diamine | 25 mg, 34% | C1(CCCC1)NC1=NC=2N(C(=N1)NC1CCCC1)N=C(C2C2=CC(=NC=C2)NC2CCCC2)C2=CC=CC=C2 | C31H38N8
